US05672760
Preparation of Compound 3: 4-[(2-Trimethylsiloxyethyl)ethylamino]tri-methylsilylethynylbenzene.
A mixture containing 10.9 g, that is 30 mmole, 4-[(2-trimethylsiloxyethyl)ethylamino]iodobenzene from the previous step, 1.0 g, that is 1.4 mmole bis(triphenylphosphine)palladium(II) chloride from Aldrich Chemical Co., and 74 mg, that is 0.75 mmole cuprous chloride, from Aldrich Chemical Co. in 50 m triethylamine was stirred and degassed under nitrogen for 15 minutes. Next 3.5 g, that is, 36 mmole trimethylsilylacetylene from Aldrich chemical Co. was added with vigorous mechanical stirring at room temperature and the final mixture was stirred at 80° C. for 1 hour. The cooled reaction mixture was filtered, diluted with ethyl ether and extracted with dilute HCL. The organic phase was separated, dried over anhydrous sodium sulfate, and the solvent was removed under reduced pressure. The dark residue was flash column chromatographed on silica gel with 4% ethyl acetate-hexane to give 9.2 g of yellow oil at a 92% yield.

reactant | 4-[(2-trimethylsiloxyethyl)ethylamino]iodobenzene | C[Si](OCCN(C1=CC=C(C=C1)I)CC)(C)C | C13H22INOSi
reactant | trimethylsilylacetylene | 36 mmole | C[Si](C)(C)C#C | C5H10Si
catalyst | bis(triphenylphosphine)palladium(II) chloride | 1.4 mmole | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-[(2-Trimethylsiloxyethyl)ethylamino]tri-methylsilylethynylbenzene | 9.2 g, 92% yield | C[Si](OCCN(C1=CC=C(C=C1)C#C[Si](C)(C)C)CC)(C)C | C18H31NOSi2
